**************************************************************************************************************************************************************************************************
*
*     888888               888888 	        888888     .o888888888888o.     8888  		88888888888	o888888888888888     88888888888888o	88888888888   88888888888   8888888888o
*       88888             88888888             88888      .8888888  8888888.    8888  		88888888888    o8888888888888888     888888  8888888o	88888888888   88888888888   88888888888o
*        88888           8888  8888           88888      .8888888.  .8888888.   8888  		8888	       888888888	     888888  88888888	8888	      8888	    8888   88888
*         88888         8888    8888         88888       88888888    88888888   8888		8888   	       888888888	     888888  88888888	8888	      8888	    8888   88888
*	   88888       8888      8888       88888        88888888    88888888   8888  		8888888	       o888888888888888o     888888  8888888o	8888888	      8888888	    8888   88888
*	    88888     8888        8888     88888	 88888888    88888888   8888  		8888888		o888888888888888o    88888888888888o	8888888	      8888888       8888   88888
*	     88888   8888          8888   88888          88888888    88888888   8888  		8888		         88888888    8888		8888	      8888	    8888   88888
*	      88888 8888            8888 88888  	 .8888888.  .8888888.   8888  		8888 			 88888888    8888		8888	      8888	    8888   88888
*	       88888888	 	     88888888		  .8888888  8888888.    88888888888	8888		8888888888888888o    8888		88888888888   88888888888   88888888888o
*		888888		      888888  		   .o888888888888o.     88888888888	8888		888888888888888o     8888		88888888888   88888888888   8888888888o
*
**************************************************************************************************************************************************************************************************
*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************

***********************************************************
****	Wolfspeed SiC MOSFET C3M0016120K Spice Library
****	Revision 1.0 Date: 05-17-2019
****	Revision 2.0 Date: 11-12-2019
****	Revision 3.0 Date: 08-12-2021
***********************************************************
****	Revision record
****	Revision 1	Initial Release, Rev 04-2019
****	Revision 2	Improved the accuracy of the IV curves
****	Revision 3	Improved dynamic performance and updated parasitic inductance
*********************************************************************************
****Parasitics Included
****Tj = Junction Temperature
****Tc = Case Temperature
****D = Drain
****G = Gate
****S1 = Kelvin Source
****S2 = Power Source
***********************************************************

.subckt C3M0016120K d g s1 s2 Tj Tc
.param p11 = -8
.param p12 = 19
.param Rgint = 2.6

R1022	Tjc	0	1E6
E1022	Tjc	0 	value {limit(v(Tj),-40,260)}

R100	gk	s	1E6
E100	gk	s 	value {limit(v(g1,s),-8,19)}

e33		NET3	0	Value {Limit(-93.938n*V(Tjc)**3+27.548u*V(Tjc)**2-5.5921m*V(Tjc)+2.6741,-1,3.5)}
R_cc	NET3	0 	1E6

xgmos	d3 d1 gk s Tjc NET3 gmos_C3M0016120K

Ls1 		s1	sv	5.17n Rser=8.4m
R_Ls1 		s1	sv  	100

Ls2 		s2	sv	2.3n Rser=0.73m
R_Ls2 		s2	sv  	100

Rv		sv	s	100
Lv		sv	s	0.7n Rser=0

R_gg 		g1	s	1E6
R_g 		g1	g2	{Rgint}
Lg 		g	g2	7.7n Rser=13.8048m
R_Lg 		g	g2	100

Ld 			d	d3  4.366n Rser=0.0874m
R_Ld		d	d3	8

Ed		Id	0	value {I(Vdrain_s)}
Rdd		Id	0	1E6

vdrain_s	d3	d1	0
Gheat		0	Tj	value = {abs((V(d1,s)*v(Id)))+abs((V(g1,g2)**2/Rgint))}

xCGD		d3	g1	cgdmos_C3M0016120K
*CGS		g1	s	6072p
CGS		g1	s	6120p
xCDS		d3	s	cds_C3M0016120K

R15	dd12	d1	1E6
e15	dd12	d1	value {
+				if (V(gk,s)>V(NET3),
+					Limit(((881.9u*V(Tjc)**2+89.38m*V(Tjc)-34.9)*(V(gk,s)**3)+
+					(-25.75m*V(Tjc)**2-2.58*V(Tjc)+993.99)*(v(gk,s)**2)+
+					(0.16317*V(Tjc)**2+21.0784*V(Tjc)-6210.944)*v(gk,s)+
+					(-0.181*V(Tjc)**2-45.93*V(Tjc)+7848))/1000,-4,20)
+					,
+					Limit(((328u*V(Tjc)**2+0.1011*V(Tjc)-33.982)*(V(gk,s)**2)+
+					(1.729m*V(Tjc)**2+0.98748*V(Tjc)-413.27)*v(gk,s)+
+					(15.27m*V(Tjc)**2-4.386*V(Tjc)-949.88))/1000,-4,5)
+					)
+					}
vdiode1	dd12	dd14	0

Esn1	net1	0	value {I(vdiode1)}
Rsn1	net1	0	1E6

D1		s	dd14	bodydiode_C3M0016120K 

CDS1		d3	s	0.1p
CGD1		g1	d3	0.01p
R_DS1		d3	s	0.5G

.model bodydiode_C3M0016120K d(is=0.88p bv=1590 n=4.80 T_abs=25
+	rs=0.015 Tnom=25 tt=2n ibv=500u level=1)


R0 N1 Tj 41.15m
R1 N2 N1 90.58m
R2 N3 N2 47.43m
R3 Tc N3 91.1m

C0 Tj 0 2.803m
C1 N1 0 16.49m
C2 N2 0 42.52m
C3 N3 0 129.6m

*eth	dd12d	d1	value {1.145}

.ends C3M0016120K
*****************************************

.subckt gmos_C3M0016120K d3 d1 gk s Tjc NET3
e1		NET1	0	value {0.2}
R_A		NET1	0 	1E6

e2		NET2	0	Value {Limit(((-139.1u*V(Tjc)**2+10.05m*V(Tjc)+4.896)*v(gk,s)**2+
+				(4.183m*V(Tjc)**2-0.4445*V(Tjc)-55.01)*v(gk,s)+
+				(-30.04m*V(Tjc)**2+4.052*V(Tjc)+450.7))/
+				1000,0.01,2)
+			}
R_B		NET2	0 	1E6

e4		NET4	0	Value {Limit(((968.4u*V(Tjc)**2+32.99m*V(Tjc)-6.2299)*(V(gr)**2)+
+					(-22.807m*V(Tjc)**2-0.8652*V(Tjc)+111.88)*v(gr)+
+					(0.12453*V(Tjc)**2+5.5603*V(Tjc)-276.84))/1000,0,5)
+					}
R_d		NET4	0 	1E6

*e99		P99	0	value {0.02}
e9		P9	0	value {Limit(((-512.15u*V(Tjc)**2+0.16216*V(Tjc)-5.694)*(V(gr)**2)+
+					(10.273m*V(Tjc)**2-3.4705*V(Tjc)+109.74)*v(gr)+
+					(-37.963m*V(Tjc)**2+14.846*V(Tjc)-245.42))/1000,0.001,3)
+					}
R9		P9	0	1E6

*e6		NET6   0	Value {1.5}
e5		NET5   0	Value {Limit(((1.062u*V(Tjc)**2-360.348u*V(Tjc)-31.169m)*V(gk,s)**4+
+				(-62.037u*V(Tjc)**2+16.3645m*V(Tjc)+2.2536)*V(gk,s)**3+
+				(1.27528m*V(Tjc)**2-0.22406*V(Tjc)-54.823)*V(gk,s)**2+
+				(-10.06m*V(Tjc)**2+0.5774*V(Tjc)+490.499)*v(gk,s)+
+				(17.488m*V(Tjc)**2+4.4632*V(Tjc)-801.713))/1000,0.01,3)
+			}
R_e		NET5	0 	1E6

e10		NET10	0	Value {0.2}
R_K		NET10	0 	1E6

R1001 gr 0	1E6
E1001 gr 0	value {limit(V(gk,s),-8,15)}

e_P8	P8	0	Value {Limit((-613n*V(gk,s)**4+25.39u*V(gk,s)**3-332u*V(gk,s)**2+1.726m*V(gk,s)-1.502m)*0.9,0.0001,0.1)
+			}
R_R	P8	0 	1E6

********************************
G2 d1 s value {
+	if(V(d3,s)<=0,
+		if (V(gk,s)<V(NET3),
+		0
+		,
+		-((((v(NET5)+v(NET4))*(v(gk,s)-V(NET3))))*(1+v(P9)*v(s,d3))*(((log(1+exp(v(gk,s)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s)-V(NET3)-(V(NET2)*v(s,d3)*((1+exp(-v(NET10)*v(s,d3)))**v(NET1))))))**2)))
+		*1
+		)
+		,
+		if (V(gk,s)<V(NET3),
+		0
+		,
+		((((v(NET5))*(v(gk,s)-V(NET3))))*(1+v(P8)*v(d3,s))*(((log(1+exp(v(gk,s)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s)-V(NET3)-(V(NET2)*v(d3,s)*((1+exp(-v(NET10)*v(d3,s)))**v(NET1))))))**2)))
+		*1
+		)
+			)
+			}

.ends gmos_C3M0016120K
****************************************

.subckt cgdmos_C3M0016120K d3 g1
.param k1=2565p
.param k2=0.5
.param ka=90
.param kb=0.3
.param kc=3.0

G11 g1 d11 value {
+		k1*(
+		(1+(limit(v(d3,g1),0.1,407))*(1+ka*(1+TANH(kb*V(d3,g1)-kc))/2))**(-k2)
+		)*ddt(v(g1,d11))
+			}
R_CGD d11 d3 1E-4
.ends cgdmos_C3M0016120K


.subckt cds_C3M0016120K d3 s

.param Cjo = 5179p
.param Vj  = 4.4365
.param M   = 0.643

G12 d12 s value {
+		(Cjo/(1+(limit(v(d3,s),0.1,580)/Vj)**M))*ddt(v(d12,s));
+			}
R_CDS d12 d3 1E-4

.ends cds_C3M0016120K

****************************************
