.subckt BT136_800 MT2 MT1 G
R_gate G G_int 20
V_G G_int MT1 0
V_MT2 MT2 MT2_int 0
B_TR_ACT TR_ACT 0 V=if(abs(I(V_G)) > 2m, 1, 0)
G_TR_LATCH 0 TR_LATCH VALUE={if(V(TR_ACT)>0.5, 1m, if((V(TR_LATCH)>0.5) & (abs(I(V_MT2))>10m), 0, -1m))}
C_TR_LATCH TR_LATCH 0 1p IC=0
D_DCH TR_LATCH TR_NHI DCLAMP_TR
V_TR_NHI TR_NHI 0 1
D_DCL TR_NLO TR_LATCH DCLAMP_TR
V_TR_NLO TR_NLO 0 0
S_MAIN MT2_int MT1 TR_LATCH 0 SWMOD_TR
.model DCLAMP_TR D(IS=1E-15 N=1)
.model SWMOD_TR SW(RON=1.2 ROFF=10MEG VT=0.5 VH=0.05)
.ends BT136_800