* C:\Users\Ernesto\Desktop\Ingeniería Electrónica\9- Noveno Semestre\Electrónica Industrial\1- Trabajos Prácticos\1- Trabajos Prácticos del Teórico (TPT)\TPT8   - Tiristores con Carga RLE y TCA785\TPT8 - Rectificador Trifásico Controlado con carga RLE.asc
V_1 V_1 0 SINE(0 311.12 50 0 0 0)
V_2 V_2 0 SINE(0 311.12 50 0 0 -120)
V_3 V_3 0 SINE(0 311.12 50 0 0 120)
R_m V_L N001 2.5
V_G2 V_G2 V_L PULSE(0 5 15.833m 1u 1u 7m 20m)
V_G3 V_G3 V_L PULSE(0 5 2.500m 1u 1u 7m 20m)
V_G1 V_G1 V_L PULSE(0 5 9.167m 1u 1u 7m 20m)
XU1 V_1 V_G1 V_L SCR
XU2 V_2 V_G2 V_L SCR
XU3 V_3 V_G3 V_L SCR
XU4 N003 V_G4 V_1 SCR
XU5 N003 V_G5 V_2 SCR
XU6 N003 V_G6 V_3 SCR
V_G4 V_G5 V_2 PULSE(0 5 5.833m 1u 1u 7m 20m)
V_G5 V_G6 V_3 PULSE(0 5 12.500m 1u 1u 7m 20m)
V_G6 V_G4 V_1 PULSE(0 5 19.167m 1u 1u 7m 20m)
L_a N001 N002 17.5m
V§E_cem N002 N003 158.75
* Simulación:
.inc thyristr.lib
.tran 0 150m 0 10u
.backanno
.end
